US05998424
2-Amino-5-(2'-methylsulfonylphenyl)pyrimidine hydrochloride
2-[Bis(tert-butoxycarbonyl)amino]-5-(2'-methylsulfonylphenyl) pyrimidine (1.28 g, 2.8 mmol) was suspended in HCl/dioxane (10 mL, 4.0 M) and stirred 20 hours at room temp. The resulting mixture was triturated with Et2O and filtered to yield a white solid (772 mg, 95%). 1H NMR (CDCl3 + few drops MeOD): δ8.53 (s, 2H), 8.22 (dd, 1H, J=7.7, J'=1.8), 7.77 (m, 2H), 7.40 (dd, 1H, J=7.4, J'=1.5), 2.94 (s, 3H).

reactant | 2-[Bis(tert-butoxycarbonyl)amino]-5-(2'-methylsulfonylphenyl) pyrimidine | 2.8 mmol, 1.28 g | C(C)(C)(C)OC(=O)N(C1=NC=C(C=N1)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C21H27N3O6S
reactant | HCl dioxane | 4.0 M, 10 mL | Cl.O1CCOCC1
product | 2-Amino-5-(2'-methylsulfonylphenyl)pyrimidine hydrochloride | 772 mg, 95% | Cl.NC1=NC=C(C=N1)C1=C(C=CC=C1)S(=O)(=O)C | InChI=1S/C11H11N3O2S.ClH/c1-17(15,16)10-5-3-2-4-9(10)8-6-13-11(12)14-7-8;/h2-7H,1H3,(H2,12,13,14);1H
